US07244730B2
(Step 3) N1-Methyl-4-(azidomethyl)-5-bromo-2-ethoxybenzamide
After dissolving the 4-(azidomethyl)-5-bromo-2-ethoxybenzoic acid (7.67 g) in tetrahydrofuran (100 ml), triethylamine (3.2 ml) and ethyl chloroformate (2.11 ml) were added in that order and the mixture was stirred at room temperature for 30 minutes. Aqueous methylamine (3.2 ml) was added and the mixture was stirred at room temperature for 30 minutes. The mixture was diluted with ethyl acetate and washed with water and 1 N hydrochloric acid, and then the organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated to yield the title compound (5.328 g) as a white solid.

reactant | 4-(azidomethyl)-5-bromo-2-ethoxybenzoic acid | 7.67 g | N(=[N+]=[N-])CC1=CC(=C(C(=O)O)C=C1Br)OCC | C10H10BrN3O3
reactant | methylamine | 3.2 ml | CN | CH5N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 3.2 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl chloroformate | 2.11 ml | ClC(=O)OCC | C3H5ClO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N1-Methyl-4-(azidomethyl)-5-bromo-2-ethoxybenzamide | 5.328 g | CNC(C1=C(C=C(C(=C1)Br)CN=[N+]=[N-])OCC)=O | C11H13BrN4O2
